US06492383B1
(1H-Indol-5-yl)-[6-(4-methoxy-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine
The title compound was prepared from p-methoxybenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H),11.2 (s, 1H), 8.81 (s, 1H), 7.55 (m, 6H), 7.20 (d, 1H). 7.05 (m, 2H), 6.50 (s, 1H), 3.79 (s, 3H). M.P. 150-180° C.; LC-MS: 373 (MH+); HPLC RT: 4.45 minutes.

reactant | p-methoxybenzeneboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | (1H-Indol-5-yl)-[6-(4-methoxy-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)OC | C21H16N4OS
